US06667312B2
Using the general method of Example 6 Part A except that a solvent (55 mL of 1,2-dichloroethane) was included, 2-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethanol (4.0 g, 16.51 mol) was chlorinated using thionyl chloride (2.41 mL, 33.02 mmol) to provide 3.9 g of 1-(2-chloroethyl)-2-methyl-1H-imidazo[4,5-c]quinoline-4-amine as a fine, white powder.

reactant | 2-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethanol | 16.51 mol, 4.0 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCO)C | C13H14N4O
reactant | thionyl chloride | 33.02 mmol, 2.41 mL | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 55 mL | ClCCCl | C2H4Cl2
product | 1-(2-chloroethyl)-2-methyl-1H-imidazo[4,5-c]quinoline-4-amine | 3.9 g | ClCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C13H13ClN4
